US05358948
Methyl 4-methoxy-3-(4-methyl-1-piperazinyl)benzoate hydrochloride
A suspension of 2-chloro-N-(2-chloroethyl)-N-methylethanamine hydrochloride (1.92 g) and methyl 3-amino-4-methoxybenzoate (1.81 g) in n-butanol was refluxed with stirring for 19 h. Anhydrous sodium carbonate (0.54 g) was added and refluxing continued for 8.5 h. The solvent was then removed to give an oil which was taken up in water (50 ml) and 2N hydrochloric acid (50 ml) and extracted with ethyl acetate (2×50 ml) The acid solution was then basified with sodium bicarbonate and re-extracted with ethyl acetate (3×50 ml). The extracts were dried and concentrated to a semi-solid (2.47 g) which was absorbed from System A (200:8:1) (5 ml) onto Kieselge G (100 g). Elution with the same solvent gave starting material and minor basic impurities. Further elution with System A (100:8:1) (450 ml) gave first minor impurities and later fractions afforded the free base of the desired product as a gum (0.48 g). This was taken up in methanol (5 ml), filtered and treated with ethereal hydrogen chloride and diluted to 25 ml with ethyl acetate. A cream coloured solid separated and was collected giving the title compound (0.586 g), m.p. 190°-194°. Recrystallisation from methanol:ethyl acetate afforded a sample for analysis.

reactant | 2-chloro-N-(2-chloroethyl)-N-methylethanamine hydrochloride | 1.92 g | Cl.ClCCN(C)CCCl
reactant | methyl 3-amino-4-methoxybenzoate | 1.81 g | NC=1C=C(C(=O)OC)C=CC1OC | C9H11NO3
reactant | sodium carbonate | 0.54 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | n-butanol | C(CCC)O | C4H10O
solvent | water | 50 ml | O | H2O
product | Methyl 4-methoxy-3-(4-methyl-1-piperazinyl)benzoate hydrochloride | 0.48 g | Cl.COC1=C(C=C(C(=O)OC)C=C1)N1CCN(CC1)C | InChI=1S/C14H20N2O3.ClH/c1-15-6-8-16(9-7-15)12-10-11(14(17)19-3)4-5-13(12)18-2;/h4-5,10H,6-9H2,1-3H3;1H
